US07253196B2
(1R,2S,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-ol
To a stirred solution of (1R,2S,4R,5S)-bicyclo[2.2.1]-heptane-2,5-diol (1.15 g, 8.97 mmol) and 15-crown-5 (0.054 mL, 0.269 mmol) in tetrahydrofuran (30.0 mL, 8.97 mmol) were added at 10° C. (ice/water bath) finely ground sodium hydroxide (2.15 g, 53.8 mmol) and 1-(bromomethyl)benzene (1.07 mL, 8.97 mmol). After stirring at 10° C. for 3 h, the mixture was stirred at ambient temperature overnight. The mixture was partitioned between EtOAc and water, and the organic portions were washed with brine, and conc. in vacuo. The crude product was purified by flash column chromatography (0 to 80% of ethyl acetate in hexanes). The title compound was obtained as a colorless oil.

reactant | (1R,2S,4R,5S)-bicyclo[2.2.1]-heptane-2,5-diol | 8.97 mmol, 1.15 g | [C@H]12[C@H](C[C@H]([C@H](C1)O)C2)O | C7H12O2
reactant | 15-crown-5 | 0.269 mmol, 0.054 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | tetrahydrofuran | 8.97 mmol, 30.0 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 53.8 mmol, 2.15 g | [OH-].[Na+]
reactant | 1-(bromomethyl)benzene | 8.97 mmol, 1.07 mL | BrCC1=CC=CC=C1 | C7H7Br
product | (1R,2S,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-ol | C(C1=CC=CC=C1)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O | C14H18O2
